US09371353B2
(1) Synthesis of 4-(3,7-dimethyl-1-octyloxy)benzoyl chloride
Under an argon atmosphere, 4-(3,7-dimethyl-1-octyloxy)benzoic acid was dissolved in anhydrous chloroform (25 ml), and after ice-cooling, thionyl chloride (6.72 ml, 92.7 mmol) was added dropwise. The reaction mixture was stirred at room temperature overnight and concentrated under reduced pressure to give the title compound as an oil. The present compound was directly used for the next step.

reactant | 4-(3,7-dimethyl-1-octyloxy)benzoic acid | CC(CCOC1=CC=C(C(=O)O)C=C1)CCCC(C)C | C17H26O3
reactant | thionyl chloride | 92.7 mmol, 6.72 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(3,7-dimethyl-1-octyloxy)benzoyl chloride | CC(CCOC1=CC=C(C(=O)Cl)C=C1)CCCC(C)C | C17H25ClO2
